US05866576
1-(13,14-Dihydroxytetradecyl)-3,7-dimethylxanthine (0.80 g, 1.96 mmol) was stirred with HBr (1.94 mL of a 30% solution in acetic acid, 5.88 mmol) for 2 hours. The mixture was then added over 10 minutes to water (20 mL), ice (15 g) and NaHCO3 (3.5 g) and stirred for 30 minutes. The reaction mixture was extracted with dichloromethane (2×50 mL), the combined organic phases were dried using magnesium sulfate and the solvent was evaporated to obtain a residue of 1-(13-acetoxy-14-bromotetradecyl)-3,7-dimethylxanthine.

reactant | 1-(13,14-Dihydroxytetradecyl)-3,7-dimethylxanthine | 1.96 mmol, 0.80 g | OC(CCCCCCCCCCCCN1C(=O)N(C=2N=CN(C2C1=O)C)C)CO | C21H36N4O4
reactant | HBr | Br | BrH
reactant | water | 20 mL | O | H2O
reactant | NaHCO3 | 3.5 g | C(=O)(O)[O-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
product | 1-(13-acetoxy-14-bromotetradecyl)-3,7-dimethylxanthine | C(C)(=O)OC(CCCCCCCCCCCCN1C(=O)N(C=2N=CN(C2C1=O)C)C)CBr | C23H37BrN4O4
